US04414225
1-Benzyl-4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine
43.5 gm (0.144 mol) of 1-benzyl-4-chloro-2,3,6,7-tetrahydro-5-oximinomethylene-1H-azepine hydrochloride were added to 450 ml of phosphorus oxychloride while stirring at ambient temperature. The mixture was then stirred for 3 hours more, and the reaction mixture was then allowed to stand overnight. Then, the excess phosphorus oxychloride was distilled off in a rotary evaporator, and the residue was carefully mixed with water while cooling with ice. While cooling was continued, the mixture was made slightly alkaline by the addition of concentrated ammonia, and an oil separated out which crystallized when scratched. The crystal slurry thus obtained was suction-filtered, washed with water, dried and recrystallized from isopropyl alcohol.

reactant | 1-benzyl-4-chloro-2,3,6,7-tetrahydro-5-oximinomethylene-1H-azepine hydrochloride | 0.144 mol, 43.5 gm | Cl.C(C1=CC=CC=C1)N1CCC(C(CC1)=C=NO)Cl
solvent | phosphorus oxychloride | 450 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Benzyl-4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine | C(C1=CC=CC=C1)N1CCC(=C(CC1)C#N)Cl | C14H15ClN2
